US08859572B2
Intermediate D: Preparation of 1-[(3-chloropropyl)sulfonyl]-4-methylpiperazine
3-Chloropropanesulfonyl chloride (1.0 g, 5.6 mmol) dissolved in CH2Cl2 (20 mL) and cooled to ˜0° C. was treated dropwise with a solution of 1-methylpiperazine (566 mg, 5.6 mmol) and Et3N (572 mg, 5.6 mmol) in CH2Cl2 (10 mL). Following complete addition, the mixture was allowed to warm to rt and stir an additional 2 h. The solvent was evaporated under reduced pressure, the residue triturated with EtOAc (30 mL), vacuum filtered and the solid washed well with EtOAc. The filtrate was concentrated under reduced pressure and the oil residue dried under high vacuum to give the title compound (1.27 g, 93%): 1H NMR (CDCl3) δ: 2.17-2.26 (2H, m), 2.49 (3H, s), 2.75-2.77 (4H, m), 3.02-3.07 (2H, m), 3.46-3.49 (4H, m), 3.60 (2H, t).

reactant | 3-Chloropropanesulfonyl chloride | 5.6 mmol, 1.0 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 1-methylpiperazine | 5.6 mmol, 566 mg | CN1CCNCC1 | C5H12N2
reactant | Et3N | 5.6 mmol, 572 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(3-chloropropyl)sulfonyl]-4-methylpiperazine | 1.27 g, 93% | ClCCCS(=O)(=O)N1CCN(CC1)C | C8H17ClN2O2S
